US07230001B1
1-{1-[4-(4-amino-3,5-dibromophenyl)-4-oxobutyl]-4-piperidinyl}-1,3-dihydro-2(2H)-benzimidazolone-hydrochloride (Item no. 1)
A mixture of 30.6 g (0.0861 mol) of 1-(4-amino-3,5-dibromophenyl)-4-chloro-1-butanone, 18.6 g (0.0856 mol) of 1-(4-piperidinyl)-1,3-dihydro-2(2H)-benzimidazolone, 18.2 g (0.172 mol) of anhydrous sodium carbonate, 2.0 g of potassium iodide and 800 ml of methylisobutylketone was refluxed for 130 hours. After cooling the mixture was extracted once with 500 ml of water, the organic phase was dried over sodium sulphate and concentrated by evaporation in vacuo. The residue was dissolved in 50 ml of anhydrous ethanol and the equivalent amount of ethanolic hydrogen chloride solution was added dropwise. After standing for 24 hours at ambient temperature the colourless crystals precipitated were suction filtered and dried in vacuo. Yield: 27.0 g (55% of theoretical). M.p.: 297–299 C (decomp.) (ethanol/water 95/5 v/v). Rf 0.21 (El A). C22H24Br2N4O2*HCl (572.73) Calc.: C, 46.14; H, 4.40; Br, 27.90; Cl, 6.19; N, 9.78; Found: 45,10, 4.92, 27.65, 6.09, 9.95

reactant | 1-(4-amino-3,5-dibromophenyl)-4-chloro-1-butanone | 0.0861 mol, 30.6 g | NC1=C(C=C(C=C1Br)C(CCCCl)=O)Br | C10H10Br2ClNO
reactant | 1-(4-piperidinyl)-1,3-dihydro-2(2H)-benzimidazolone | 0.0856 mol, 18.6 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium carbonate | 0.172 mol, 18.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | methylisobutylketone | 800 ml | CC(=O)CC(C)C | C6H12O
product | 1-{1-[4-(4-amino-3,5-dibromophenyl)-4-oxobutyl]-4-piperidinyl}-1,3-dihydro-2(2H)-benzimidazolone-hydrochloride | Cl.NC1=C(C=C(C=C1Br)C(CCCN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)=O)Br | InChI=1S/C22H24Br2N4O2.ClH/c23-16-12-14(13-17(24)21(16)25)20(29)6-3-9-27-10-7-15(8-11-27)28-19-5-2-1-4-18(19)26-22(28)30;/h1-2,4-5,12-13,15H,3,6-11,25H2,(H,26,30);1H
